US05008274
3.79 Grams (10 mM) of 6-[2-(1-phenyl-2-imidazolyl)sulfinylacetyl]-3,4-dihydrocarbostyril was dissolved in a mixture of 240 ml of acetic acid with 100 ml of water, then 5.06 g (32 mM) of potassium permanganate was added thereto. This mixture was stirred at room temperature for 2 days. After the reaction was completed, chloroform was added to the reaction mixture and filtered with Celite (a trademark for distomaceous earth product, manufactured by Johns-Manville Products Corp.). The filtrate was washed with water and dried with anhydrous magnensium sulfate. The residue obtained by removing the solvent was purified by means of a silica gel column chromatography (eluent: chloroform : methanol=30:1), and recrystallized from ethanol-chloroform to yield 0.6 g of 6-[2-(1-phenyl-2-imidazolyl)sulfonylacetyl]-3,4-dihydrocarbostyril. Light yellow granular substance.

reactant | 6-[2-(1-phenyl-2-imidazolyl)sulfinylacetyl]-3,4-dihydrocarbostyril | 10 mM | C1(=CC=CC=C1)N1C(=NC=C1)S(=O)CC(=O)C=1C=C2CCC(NC2=CC1)=O | C20H17N3O3S
reactant | potassium permanganate | 32 mM, 5.06 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 240 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
product | 6-[2-(1-phenyl-2-imidazolyl)sulfonylacetyl]-3,4-dihydrocarbostyril | 0.6 g | C1(=CC=CC=C1)N1C(=NC=C1)S(=O)(=O)CC(=O)C=1C=C2CCC(NC2=CC1)=O | C20H17N3O4S
